US07932271B2
[5-Bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol
To a solution of [5-bromo-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol (550 mg, 1.20 mmol) in a mixture of methanol (10 ml) and ethyl acetate (10 ml) were added hexaammonium heptamolybdate tetrahydrate (100 mg) and 30% aqueous hydrogen peroxide (10 ml). The resulting mixture was stirred for 19 hours. After addition of water, the resulting mixture was extracted with ethyl acetate. The extract was washed sequentially with water, a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of sodium thiosulfate and brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure, followed by recrystallization from hexane:ethyl acetate to give the title compound (506 mg, 1.04 mmol, 86%) as a white powder.

reactant | [5-bromo-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol | 1.20 mmol, 550 mg | BrC=1C(=CC(=NC1)CO)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C19H13BrClF2NOS
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
reactant | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | [5-Bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol | 1.04 mmol, 506 mg, 86% | BrC=1C(=CC(=NC1)CO)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H13BrClF2NO3S
